US06747023B1
1-(tert-Butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]-2-(2-hydroxyethyl)piperazine
To a solution of 4-[(1-benzenesulfonyl-5-chloroindol-2-yl)sulfonyl]-1-(tert-butoxycarbonyl)-2-[2-(tert-butyldiphenylsilyloxy)ethyl]piperazine (4.48 g) in tetrahydrofuran (20 ml) was added a 1.OM tetrahydrofuran solution (5.5 ml) of tetrabutylammonium fluoride, followed by stirring at room temperature for 3.5 hours. After concentration under reduced pressure, the residue was purified by flash column chromatography (ethyl acetate:hexane=1:9 to 1:0) using as a carrier silica gel, whereby the title compound (0.75 g) was obtained as a colorless solid.

reactant | 4-[(1-benzenesulfonyl-5-chloroindol-2-yl)sulfonyl]-1-(tert-butoxycarbonyl)-2-[2-(tert-butyldiphenylsilyloxy)ethyl]piperazine | 4.48 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)Cl)S(=O)(=O)N1CC(N(CC1)C(=O)OC(C)(C)C)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C41H48ClN3O7S2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)-4-[(5-chloroindol-2-yl)sulfonyl]-2-(2-hydroxyethyl)piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl)CCO | C19H26ClN3O5S
